Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o woman with no significant PMH who presents with abdominal 
pain. She reports sharp constant epigastric pain for 5 days with 
no PO intake during that time. She denies nausea but says she is 
too sick to eat. She says that the does not radiate anywhere and 
is diffuse but confined to her abdomen. Her pain improves with a 
warm bath and also with "smoking pot." Denies vaginal discharge, 
diarrhea, fevers or chills. She says she first had the pain last 
___ and then she went on vacation to ___ and the pain 
completely went away. Returned when she came back to school on 
and off. Had EGD here in ___ which was normal with normal 
biopsies. Then she spent the summer in ___ with her family 
and was hospitalized for 5 days with this pain. Reportedly they 
did an extensive work up including colonoscopy with no real 
findings, and gave her antibiotics and amitriptyline sent her 
home. She did not take the amitriptyline because she says she is 
"not depressed." She says she felt ok for the about 5 months 
after that but then last week developed similar epigastric pain. 
She went to the ___ a few days ago where she says they did 
not do a CT scan but gave her antibiotics (cipro/flagyl) and 
discharged her from the ED. She now presents to ___ with 
continued pain. Denies dysuria, hematuria, diarrhea, fevers, 
chills. Does report maybe constipation.  
.  
In the ED, initial vs were T 97, HR 81, BP 103/56, RR 18, O2sat 
96% RA. She was given 2L NS, morphine 4mg total IV, zofran IV 
4mg x2, dilaudid 0.5mg IV x2, ativan 1mg IV x1.  
.  
On the floor she was asleep. Once awoken she writhed in pain. 
During the interview with her she seemed more comfortable. When 
this was pointed out she said that she doesn't notice the pain 
as much when she is distracted. She confirmed the elements of 
her history. She specifically denies any other drugs or 
non-prescribed medications. A urine HCG and tox screen were sent 
on the floor were negative for BZ and opiates inspite of 
receiving both before the screen was sent. When confronted with 
this information in the presense of her mother and a member of 
the nursing staff she offered no explanation. The tests are 
being resent. She continues to writhe in pain at times and 
sleep.  

 
Past Medical History:
childhood asthma - not currently  
s/p adenoids removed  

 
Social History:
___
Family History:
Mother had cervical cancer. Grandmother had fibromyalgia. She 
has a twin brother and younger brother who are in good health. 
 
Physical Exam:
GEN: Asleep in bed, when awake at time alert and calm, at times 
seemingly in pain  
VS: 98.2 120/80 68 18 100%RA  
HEENT: MMM, no LAD, slightly pale mucosa, pinpoint pupils early 
in the AM but marked dilation later on  
CV: RR, NL S1S2 no S3S4 MRG, pulses 2+ at the radial bilat  
PULM: CTAB, no dullness to percussion, no CVA tenderness  
ABD: BS+, NTND, with measured breathing no particular localizing 
site of tenderness. Deep palpation was possible without 
complaint after encouragement. No masses or HSM. No dullness to 
percussion or tenderness on percussion. No rebound. Pt tolerated 
shaking the bed and walking to the bathroom.  
LIMBS: no rash, tatoo on right foot, no edema  

 
Pertinent Results:
___ 06:25AM BLOOD WBC-11.1* RBC-3.90* Hgb-12.1 Hct-34.2* 
MCV-88 MCH-31.0 MCHC-35.4* RDW-12.7 Plt ___
___ 02:55PM BLOOD WBC-11.0 RBC-4.40 Hgb-13.8 Hct-38.8 
MCV-88 MCH-31.3 MCHC-35.5* RDW-12.2 Plt ___
___ 02:55PM BLOOD Neuts-73.7* ___ Monos-3.1 Eos-0.4 
Baso-0.8
___ 02:55PM BLOOD Glucose-72 UreaN-18 Creat-0.9 Na-139 
K-4.2 Cl-102 HCO3-23 AnGap-18
___ 06:25AM BLOOD ALT-40 AST-26
___ 02:55PM BLOOD ALT-56* AST-44* AlkPhos-44 TotBili-0.5
___ 02:55PM BLOOD Albumin-4.7
___ 05:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:25AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:55PM BLOOD tTG-IgA-7
___ 03:54PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG
___ 09:55AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG
.
CT ABDOMEN W/CONTRAST Study Date of ___ 5:___BDOMEN: 
The lung bases are clear. Heart size is normal. There is no 
pleural or pericardial effusion. The liver, gallbladder, spleen, 
pancreas, adrenal glands and kidneys are unremarkable. There is 
no retroperitoneal lymphadenopathy. The small and large bowel 
are normal. There is no free fluid, free air or adenopapathy. CT 
PELVIS: The rectum, sigmoid, baladder, appendix, uterus and 
adnexa are normal. There is no pelvic lymphadenopathy or free 
fluid. The osseous structures are normal. IMPRESSION: No CT 
evidence to explain abdominal pain.  

 
Brief Hospital Course:
___ yo F with no signficant PMH who presents with abdominal pain. 
It was never really clear if her complaints were entirely 
organic. Her history is somewhat consistent with IBS. After much 
discussion and once the pt began to open up she revealed 
alternating constipation and diarrhea and random paroxysmal 
abdominal pain without weight loss, bloody stool, or fevers. It 
seems that opiates aggrevate the symptoms of cramping and she 
can only achieve analgesia from having enough to get a high. 
This resulted in some amount of drug seeking behavior. She 
seemed in withdrawl on the floor the morning of admission with 
piloerection, dilated pupils, and agitation. The situation was 
complicated by her urine tox screen which was clearly not her 
urine since it did not contain BZs or opiates, but of which she 
had received. When confronted with this data she offered neither 
denials or explanations. She also eventually revealed that the 
reason she came to ___ ED was that the ___ ED had told her she 
was a drug addict and discharged her with no further 
intervention. She seemed almost relieved when we discussed a 
potential diagnosis for her pain such as IDS. It was emphasized 
to her that the constipating effects of opiates potentiate 
cramps and should be avoided. Ultimately she was discharged with 
a putative diagnosis of IBS with lingering concern about her 
drug seeking behavior. 
.  
# Abdominal pain: Diffuse, sharp, non-localizing pain with no 
peritoneal signs, NL EGD and colonscopy, no elevations in WBC, 
and NL LFTs with hydration. DDx includes gyn complaints such as 
endometriosis, although not cyclical and no pelvic fluid on CT 
consistent with endometriosis. IDB was not seen on various 
studies and there is no bowel wall thickening. WBC NL. Celiac 
disease very unlikely given history, lack of diarrhea, and NL 
antiTTG. History concerning for functional abdominal pain such 
as IBS or drug seeking behavior. The urine sample the pt gave 
seems to be either diluted or not urine. Her claim that IV 
dilaudid alone and not MS relieves her pain is concerning for 
drug seeking. It is also worth noting that pt stated that she 
can become distracted and not notice the pain. In summary, her 
pain is not consistent with any major pathological abdominal 
process.  She ultimately did well with simethicone for gas. 
Since Zofran can cause constipation this was held, as were all 
narcotics. She was continued on an H2 blocker. She was also 
given low dose Ativan for anxiety. 
.   
# Transaminitis: The elevated AST and ALT were very mild and 
resolved with hydration. Most likely ___ dehydration.  
.  
# Possible drug seeking behavior: It is unclear if she diluted 
her urine or gave some other substance for her Utox. Her demands 
for pain medications with consistently NL VSs is also 
concerning. Her physical exam throughout the morning is notable 
for increasing agitation with dilated pupils. Given she has a 
history of taking TCAs, a tox screen was added to her admission 
labs and her urine was sent. As stated, all were negative. 
Social work was asked to consult and saw the patient. 
 
Medications on Admission:
Not taking any.
Was on amytripyline, omeprazole, and ranitidine as well as cipro 
and flagyl
 
Discharge Medications:
1. Simethicone 80 mg Tablet, Chewable Sig: ___ Tablet, Chewables 
PO QID (4 times a day) as needed.
Disp:*60 Tablet, Chewable(s)* Refills:*0*
2. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for anxiety for 5 doses.
Disp:*5 Tablet(s)* Refills:*0*
3. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO once a 
day.
Disp:*30 Tablet(s)* Refills:*2*
4. Charcoal Plus DS 250-80 mg Tablet Sig: One (1) Tablet PO 
every ___ hours as needed for pain.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: IBS

 
Discharge Condition:
Good, stable vital signs, pain under control

 
Discharge Instructions:
You were admitted for abdominal pain. Ultimately it was believed 
that your pain was due to irritable bowel syndrome. You should 
not take opiate pain medication as these aggravate your IBS. 
These medications include dilaudid, morphine, codeine, percoset, 
vicoden, and demerol. 
.
Please do your best to eat and stay hydrated. At first you 
should eat only clear liquids. Then advance to the BRAT diet 
(Bananas, Rice, Apple sauce, and Toast). Then try regular foods. 
You should try to identify the triggers for your IBS and avoid 
them. The trigger may be certain foods or stresses in your life. 
Please take tylenol for your pain. Do not take more than 4g of 
tylenol in a day. Simethicone and charcoal pills can help your 
cramping. You can take ranitidine for stomach upset. You should 
continue to take amitriptyline as prescribed. Do not take the 
antibiotics you received during your previous hospitalizations. 
.
Please attend your follow up appointments. 
.
Please call your doctor if your symptoms recur or if you 
experience other concerning symptoms including chest pain, 
shortness of breath, bleeding, uncontrolled diarrhea or 
vomiting, or other concerning symptoms. 
.
 
Followup Instructions:
___